US04371736
5-Chloro- 2-[2-(5-nitropyridin-2-yloxy)phenoxy]-pyrimidine
After heating at reflux a mixture of 1.5 grams (0.0067 mole) 2-(5-chloropyrimidin-2-yloxy)phenol, 1.2 grams potassium carbonate, 1.3 grams 2-chloro-5-nitropyridine and 40 ml of methyl ethyl ketone, the reaction mixture was poured into excess H2 0 and the aqueous mixture extracted with ethyl ether (200 ml). The ether layer was washed with saturated NaHCO3, H2O, brine, dried (MgSO4), filtered, and evaporated to yield 2.3 grams of a yellow-orange oil which was purified by silica gel column chromatography (CH2Cl2 as the eluent). NMR (CDCl3): δ6.90 (d, 1H, pyridine ring proton), 7.35 (s, 4H, ArH), 8.25-8.50 (m, 1H, pyridine ring proton), 8.45 (s, 2H, pyrimidine ring protons), 8.95 (d, 1H, pyridine ring proton).

reactant | 2-(5-chloropyrimidin-2-yloxy)phenol | 0.0067 mole, 1.5 grams | ClC=1C=NC(=NC1)OC1=C(C=CC=C1)O | C10H7ClN2O2
reactant | potassium carbonate | 1.2 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 1.3 grams | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | 5-Chloro- 2-[2-(5-nitropyridin-2-yloxy)phenoxy]-pyrimidine | 2.3 grams | ClC=1C=NC(=NC1)OC1=C(C=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C15H9ClN4O4
